US06696473B2
Preparation of 3,5-Dimethyl-4-phenyl-3H-thiazole-2-thione
To a 100 mL flask was added freshly prepared triethylammonium methydithiocarbamate (2.0 g, 9.5 mmol), anhydrous MeCN (50 mL), and 2-bromopropiophenone (2.04 g, 9.5 mmol). The reaction mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the resulting crude residue was treated with conc H2SO4 (5 mL) with stirring at room temperature. After 20 min, the reaction mixture was diluted with water (75 mL) and then mixed with DCM (75 mL). The layers were separated and the aqueous layer extracted once more with DCM (75 mL). The combined organic layers were washed with water (3×50 mL) and then brine (50 mL), dried over anhydrous MgSO4 and concentrated under reduced pressure to afford the title product (1.95 g, 92%) as an off-white solid, which was used without further purification. 1H-NMR (CDCl3): δ 7.50 (2H, m), 7.27 (2H,m), 3.45 (3H, s), 2.06 (3H, s).

reactant | triethylammonium methydithiocarbamate | 9.5 mmol, 2.0 g | CNC([S-])=S.C(C)[NH+](CC)CC
reactant | 2-bromopropiophenone | 9.5 mmol, 2.04 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 3,5-Dimethyl-4-phenyl-3H-thiazole-2-thione | 1.95 g, 92% | CN1C(SC(=C1C1=CC=CC=C1)C)=S | C11H11NS2
